US08026234B2
Ethyl 2-((cyclopentylamino)methyl)-2-hydroxybutanoate:
A mixture of methyl 2-ethyloxirane-2-carboxylate (1.9 g, 15 mmol) and cyclopentylamine (2.2 mL, 22 mmol) in ethanol (50 mL) was heated at 80° C. for 3 d. The reaction mixture was then concentrated, diluted to EtOAc, washed by NaHCO3, brine and water. Organic layer was dried, concentrated to give a residue which is used for next step without further purification (2.7 g, 80%). [M+H] calc'd for C12H23NO3, 230. found 230.

reactant | methyl 2-ethyloxirane-2-carboxylate | 15 mmol, 1.9 g | C(C)C1(OC1)C(=O)OC | C6H10O3
reactant | cyclopentylamine | 22 mmol, 2.2 mL | C1(CCCC1)N | C5H11N
reactant | ethanol | 50 mL | C(C)O | C2H6O
product | Ethyl 2-((cyclopentylamino)methyl)-2-hydroxybutanoate | C1(CCCC1)NCC(C(=O)OCC)(CC)O | C12H23NO3
